US04617309
3-[4-oxo-4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-2-thiabutyl]-2-methylindole
3-[4-oxo-4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-2-thiabutyl]-5-methoxyindole, Rf 0.78 (CH2Cl2 /methanol/ethyl acetate 7:2:1)

reactant | 3-[4-oxo-4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-2-thiabutyl]-5-methoxyindole | O=C(CSCC1=CNC2=CC=C(C=C12)OC)N1CCC(=CC1)C1=CC=CC=C1 | C23H24N2O2S
reactant | CH2Cl2 methanol ethyl acetate | C(Cl)Cl.CO.C(C)(=O)OCC
product | 3-[4-oxo-4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-2-thiabutyl]-2-methylindole | O=C(CSCC1=C(NC2=CC=CC=C12)C)N1CCC(=CC1)C1=CC=CC=C1 | C23H24N2OS
